US09382188B2
E) ethyl 3-cyclopropyl-3-(2-(hydroxymethyl)pyridin-4-yl)propanoate
To a solution of ethyl 3-cyclopropyl-3-(2-((methoxymethoxy)methyl)pyridin-4-yl)acrylate (1.28 g) in acetic acid (20 mL) was added zinc powder (2.87 g) at 20° C., and the mixture was stirred at room temperature for 10 min. The reaction mixture was filtered, and the solvent of the filtrate was evaporated under reduced pressure. The residue was dissolved in THF (30 mL), and conc. sulfuric acid (3.51 mL) was added. The reaction mixture was stirred at 60° C. for 1 hr, and further heated under reflux for 5 min. The reaction mixture was basified with aqueous potassium carbonate solution at 0° C., and extracted with ethyl acetate. The extract was washed with water and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (626 mg) as a colorless oil.

reactant | ethyl 3-cyclopropyl-3-(2-((methoxymethoxy)methyl)pyridin-4-yl)acrylate | 1.28 g | C1(CC1)C(=CC(=O)OCC)C1=CC(=NC=C1)COCOC | C16H21NO4
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
catalyst | zinc | 2.87 g | [Zn] | Zn
product | ethyl 3-cyclopropyl-3-(2-(hydroxymethyl)pyridin-4-yl)propanoate | 626 mg | C1(CC1)C(CC(=O)OCC)C1=CC(=NC=C1)CO | C14H19NO3
